US04032564
Similarly, 2-methyl-3-oxahexadecanoic acid is prepared from tridecanol and sodium 2-iodopropionate using the procedure of Example 1.

reactant | tridecanol | C(CCCCCCCCCCCC)O | C13H28O
reactant | sodium 2-iodopropionate | IC(C(=O)[O-])C.[Na+]
product | 2-methyl-3-oxahexadecanoic acid | CC(C(=O)O)OCCCCCCCCCCCCC | C16H32O3
